US07956054B2
(R)-4-Phenyl-3-({5-propyl-1-[2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-1H-pyrazole-3-carbonyl}amino)butyric Acid
A solution of 5-propyl-1-[2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-1H-pyrazole-3-carboxylic acid (200 mg, 510 μmol), HOAt (77.1 mg, 566.4 μmol), EDCI (108.6 mg, 566.4 μmol), and 2,6-lutidine (357.8 μL, 3.1 mmol) in DCM (6.1 mL, 94.7 mmol) was stirred to pre-activate the acid. After 30 minutes, the mixture was cooled at 0° C. and (R)-3-amino-4-phenylbutyric acid hydrochloride (122.2 mg, 566.4 μmol) was added. The resulting solution was slowly warmed to room temperature and stirred overnight. The mixture was then concentrated, re-dissolved in water/MeCN/TFA and purified using reverse phase liquid chromatography to yield the title compound (59 mg; 92% purity). MS m/z: [M+H]+ calcd for C31H31N7O3, 550.25; found 550.4.

reactant | 5-propyl-1-[2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-1H-pyrazole-3-carboxylic acid | 510 μmol, 200 mg | C(CC)C1=CC(=NN1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=O)O | C21H20N6O2
reactant | HOAt | 566.4 μmol, 77.1 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDCI | 566.4 μmol, 108.6 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2,6-lutidine | 3.1 mmol, 357.8 μL | N1=C(C=CC=C1C)C | C7H9N
reactant | DCM | 94.7 mmol, 6.1 mL | C(Cl)Cl | CH2Cl2
reactant | (R)-3-amino-4-phenylbutyric acid hydrochloride | 566.4 μmol, 122.2 mg | Cl.N[C@@H](CC(=O)O)CC1=CC=CC=C1
product | (R)-4-Phenyl-3-({5-propyl-1-[2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-1H-pyrazole-3-carbonyl}amino)butyric Acid | 59 mg, 92% | C1(=CC=CC=C1)C[C@H](CC(=O)O)NC(=O)C1=NN(C(=C1)CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C31H31N7O3
